US06762318B2
Step 4: 3-{4-[4-(4-tert-Butylphenyl)-4-oxo-2-(4-trifluoromethoxyphenyl)butyryl]benzoylamino}propionic acid
3-{4-[4-(4-tert-Butylphenyl)-4-oxo-2-(4-trifluoromethoxyphenyl)butyryl]benzoylamino}propionic acid methyl ester (12 g, 21 mmol) was dissolved in ethanol 96% (250 mL), added 4N NaOH (31.2 mL, 125 mmol), and stirred for 2 h 45 min. The reaction mixture was concentrated in vacuo and the residue suspended in water (150 mL) and added hydrochloric acid (4N, 34 mL) to pH 1-2. After 1 h the precipitate was filtered and washed carefully with water and dried. The residue was purified by preparative HPLC using acetonitrile (gradient from 42% to 97.5%), water and TFA (2.5%) as eluent to afford 4.7 g of the title compound.

reactant | 3-{4-[4-(4-tert-Butylphenyl)-4-oxo-2-(4-trifluoromethoxyphenyl)butyryl]benzoylamino}propionic acid methyl ester | 21 mmol, 12 g | COC(CCNC(C1=CC=C(C=C1)C(C(CC(=O)C1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)OC(F)(F)F)=O)=O)=O | C32H32F3NO6
reactant | NaOH | 125 mmol, 4N, 31.2 mL | [OH-].[Na+]
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 3-{4-[4-(4-tert-Butylphenyl)-4-oxo-2-(4-trifluoromethoxyphenyl)butyryl]benzoylamino}propionic acid | 4.7 g | C(C)(C)(C)C1=CC=C(C=C1)C(CC(C(=O)C1=CC=C(C(=O)NCCC(=O)O)C=C1)C1=CC=C(C=C1)OC(F)(F)F)=O | C31H30F3NO6
